US09290517B2
(3R,3aR,6R,6aR)-6-[[6-chloro-5-(4-pyrrolidin-1-ylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-pyrrolidin-1-ylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane (31.8 mg, 0.057 mmol) and tetrabutylammonium fluoride 1.0 M in THF (0.6 ml, 0.600 mmol) were combined in a vial. The reaction mixture was a light amber solution that was stirred at room temperature. After 3.5 hours, the reaction mixture was partitioned between EtOAc (40 ml) and water (40 ml). The aqueous layer was extracted with EtOAc (2×20 ml) and a few milliliters of brine. The organic layers were combined, washed with brine (1×20 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a pale yellow residue. The residue (loaded in DMSO/MeOH) was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting (20 ml/min) with a 17 minute 20%-80% acetonitrile/water+0.05% TFA gradient followed by a 2 minute 80% acetonitrile/water+0.05% TFA flush. The product fractions were combined, frozen, and lyophilized to give the title compound as a yellow solid. LC-MS: calculated for C22H23ClN4O4 442.14 observed m/e: 443.19 (M+H)+ (Rt 1.09/2 min); 1H NMR δ (ppm) (500 MHz CD3OD): 8.01 (s, 1H), 7.54-7.56 (m, 2H), 6.72-6.74 (m, 2H), 5.59 (q, J=5.4 Hz, 1H), 4.97 (t, J=5.3 Hz, 1H), 4.48 (t, J=5.0 Hz, 1H), 4.27-4.31 (m, 1H), 4.13-4.19 (m, 2H), 3.88-3.91 (m, 1H), 3.60 (dd, J=9.1, 7.6 Hz, 1H), 3.37-3.40 (m, 4H), 2.08-2.10 (m, 4H).

reactant | [(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-pyrrolidin-1-ylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | 0.057 mmol, 31.8 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)N1CCCC1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C | C28H37ClN4O4Si
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 0.600 mmol, 0.6 ml | C1CCOC1 | C4H8O
product | (3R,3aR,6R,6aR)-6-[[6-chloro-5-(4-pyrrolidin-1-ylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)N1CCCC1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C22H23ClN4O4
